### PR TITLE
chore: prefer `answer(sorry) ↔ ...`

### PR DESCRIPTION
**Pull request by mo271**
This changes occurrences of  `... ↔ .nswer(sorry)` with `answer(sorry) ↔ ...`, which is hopefully less error prone. (In fact we fix some bugs this way here)

Drive-by: adding some line break here and there in order to satisfy the 100 character limit.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1003.lean [hunk 1]
```diff
@@ -43,7 +43,7 @@ $$\phi(n) = \phi(n+1) = \cdots = \phi (n+k)$$ has infinitely many solutions.
 -/
 @[category research open, AMS 11]
 theorem erdos_1003.variants.Icc :
-    (∀ k ≥ 1, Set.Infinite {n | ∀ i ∈ Set.Icc 1 k, φ n = φ (n + i)}) ↔ answer(sorry) := by
+    answer(sorry) ↔ (∀ k ≥ 1, Set.Infinite {n | ∀ i ∈ Set.Icc 1 k, φ n = φ (n + i)}) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1003.lean]: Do you want to remove the brackets while you are at it?
```suggestion
    answer(sorry) ↔ ∀ k ≥ 1, {n | ∀ i ∈ Set.Icc 1 k, φ n = φ (n + i)}.Infinite := by
```

File: FormalConjectures/ErdosProblems/1052.lean [hunk 2]
```diff
@@ -37,7 +37,7 @@ def IsUnitaryPerfect (n : ℕ) : Prop :=
 Are there only finitely many unitary perfect numbers? -/
 @[category research open, AMS 11]
 theorem erdos_1052 :
-    Set.Finite IsUnitaryPerfect ↔ answer(sorry) := by
+    answer(sorry) ↔ Set.Finite IsUnitaryPerfect := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1052.lean]:
```suggestion
    answer(sorry) ↔ {n | IsUnitaryPerfect n}.Finite := by
```
while you are at it

File: FormalConjectures/ErdosProblems/1077.lean [hunk 3]
```diff
@@ -36,14 +36,13 @@ at least $εm^{1+α}$ edges?
 -/
 @[category research solved, AMS 5]
 theorem erdos_1077 :
-    (∀ ε > (0 : ℝ), ε < 1 → ∀ α > (0 : ℝ), α < 1 → ∀ᶠ D in atTop, ∀ᶠ n in atTop,
+    answer(sorry) ↔ ∀ ε > (0 : ℝ), ε < 1 → ∀ α > (0 : ℝ), α < 1 → ∀ᶠ D in atTop, ∀ᶠ n in atTop,
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1077.lean]:
```suggestion
    answer(False) ↔ ∀ ε > (0 : ℝ), ε < 1 → ∀ α > (0 : ℝ), α < 1 → ∀ᶠ D in atTop, ∀ᶠ n in atTop,
```

File: FormalConjectures/ErdosProblems/1043.lean [hunk 4]
```diff
@@ -43,9 +43,9 @@ Pommerenke [Po61] proved that the answer is no.
 -/
 @[category research solved, AMS 28 30]
 theorem erdos_1043 :
-    (∀ (f : ℂ[X]), f.Monic → f.degree ≥ 1 →
+    answer(sorry) ↔ ∀ (f : ℂ[X]), f.Monic → f.degree ≥ 1 →
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1043.lean]:
```suggestion
    answer(False) ↔ ∀ (f : ℂ[X]), f.Monic → f.degree ≥ 1 →
```

File: FormalConjectures/ErdosProblems/141.lean [hunk 5]
```diff
@@ -102,16 +102,16 @@ def consecutivePrimeArithmeticProgressions (k : ℕ) : Set (Set ℕ) :=
...
   sorry
 
 /--
 Fix a $k \geq 3$. Is it true that there are infinitely many arithmetic prime progressions of length $k$?
 -/
 @[category research open, AMS 5 11]
-theorem erdos_141.variant.infinite_general_case  (k : ℕ) (hk : k ≥ 3) :
-    (consecutivePrimeArithmeticProgressions k).Infinite ↔ answer(sorry) :=
+theorem erdos_141.variant.infinite_general_case : answer(sorry) ↔
+    ∀ᵉ (k ≥ 3), (consecutivePrimeArithmeticProgressions k).Infinite :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/141.lean]:
```suggestion
    ∀ k ≥ 3, (consecutivePrimeArithmeticProgressions k).Infinite :=
```

File: FormalConjectures/ErdosProblems/274.lean [hunk 6]
```diff
@@ -50,9 +50,9 @@ If `G` is a group then can there exist an exact covering of `G` by more than one
 different sizes? (i.e. each element is contained in exactly one of the cosets.)
 -/
 @[category research open, AMS 20]
-theorem erdos_274 : (∀ᵉ (G : Type*) (h : Group G) (hG : 1 < ENat.card G),
+theorem erdos_274 : answer(True) ↔ ∀ᵉ (G : Type*) (h : Group G) (hG : 1 < ENat.card G),
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/274.lean]:
```suggestion
theorem erdos_274 : answer(sorry) ↔ ∀ᵉ (G : Type*) (h : Group G) (hG : 1 < ENat.card G),
```

File: FormalConjectures/ErdosProblems/312.lean [hunk 7]
```diff
@@ -31,15 +31,15 @@ $1 - \exp(-(c*K)) < \sum_{n \in S} 1/n \le 1$?
...
+    ∃ (c : ℝ), 0 < c ∧
       ∀ (K : ℝ), 1 < K →
         ∃ (N₀ : ℕ),
           ∀ (n : ℕ) (a : Fin n → ℕ),
             (n ≥ N₀ ∧ (∑ i : Fin n, (a i : ℝ)⁻¹) > K) →
               ∃ (S : Finset (Fin n)),
                 1 - Real.exp (-(c * K)) < (∑ i ∈ S, (a i : ℝ)⁻¹) ∧
-                (∑ i ∈ S, (a i : ℝ)⁻¹) ≤ 1)
-    ↔ answer(sorry) := by
+                (∑ i ∈ S, (a i : ℝ)⁻¹) ≤ 1 := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
                ∑ i ∈ S, (a i : ℝ)⁻¹ ≤ 1 := by
```

File: FormalConjectures/ErdosProblems/316.lean [hunk 8]
```diff
@@ -33,10 +33,11 @@ This is not true in general, as shown by Sándor [Sa97].
 [Sa97] S\'{A}ndor, Csaba, _On a problem of Erdős_. J. Number Theory (1997), 203-210.
 -/
 @[category research solved, AMS 5 11]
-theorem erdos_316 : (∀ A : Finset ℕ, 0 ∉ A → 1 ∉ A →
+theorem erdos_316 : answer(False) ↔ ∀ A : Finset ℕ, 0 ∉ A → 1 ∉ A →
     ∑ n ∈ A, (1 / n : ℚ) < 2 → ∃ (A₁ A₂ : Finset ℕ),
       Disjoint A₁ A₂ ∧ A = A₁ ∪ A₂ ∧
-      (∑ n ∈ A₁, (1 / n : ℚ) < 1 ∧ ∑ n ∈ A₂, (1 / n : ℚ) < 1)) ↔ answer(False) := by
+      (∑ n ∈ A₁, (1 / n : ℚ) < 1 ∧ ∑ n ∈ A₂, (1 / n : ℚ) < 1) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/316.lean]:
```suggestion
      ∑ n ∈ A₁, (1 / n : ℚ) < 1 ∧ ∑ n ∈ A₂, (1 / n : ℚ) <  1 := by
```

File: FormalConjectures/ErdosProblems/316.lean [hunk 9]
```diff
@@ -33,10 +33,11 @@ This is not true in general, as shown by Sándor [Sa97].
...
+  symm
   simp only [one_div, iff_false, not_forall, not_exists, not_and, not_lt]
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/316.lean]:
```suggestion
  simp only [one_div, false_iff, not_forall, not_exists, not_and, not_lt]
```

File: FormalConjectures/ErdosProblems/355.lean [hunk 10]
```diff
@@ -33,9 +33,8 @@ contain all rationals in some open interval?
 -/
 @[category research open, AMS 11]
 theorem erdos_355 :
-    (∃ A : ℕ → ℕ, IsLacunary A ∧ ∃ u v : ℝ, u < v ∧ ∀ q : ℚ, ↑q ∈ Set.Ioo u v →
-      q ∈  {(∑ a ∈ A', (1 / a : ℚ)) | (A' : Finset ℕ) (_ : A'.toSet ⊆ Set.range A)})
-    ↔ answer(sorry) := by
+    answer(sorry) ↔ ∃ A : ℕ → ℕ, IsLacunary A ∧ ∃ u v : ℝ, u < v ∧ ∀ q : ℚ, ↑q ∈ Set.Ioo u v →
+      q ∈  {(∑ a ∈ A', (1 / a : ℚ)) | (A' : Finset ℕ) (_ : A'.toSet ⊆ Set.range A)} := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/355.lean]:
```suggestion
      q ∈ {∑ a ∈ A', (1 / a : ℚ) | (A' : Finset ℕ) (_ : A'.toSet ⊆ Set.range A)} := by
```

File: FormalConjectures/ErdosProblems/410.lean [hunk 11]
```diff
@@ -37,8 +37,8 @@ Erdos, Granville, Pomerance, Spiro
 (page 169 of the book "Analytic Number Theory", 1990).
 -/
 @[category research open, AMS 11]
-theorem erdos_410 : (∀ᵉ (n > 1),
-    Tendsto (fun k : ℕ ↦ ((sigma 1)^[k] n : ℝ) ^ (1 / (k : ℝ))) atTop atTop) ↔ answer(sorry) := by
+theorem erdos_410 : answer(sorry) ↔ ∀ᵉ (n > 1),
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/410.lean]:
```suggestion
theorem erdos_410 : answer(sorry) ↔ ∀ n > 1,
```

File: FormalConjectures/ErdosProblems/427.lean [hunk 12]
```diff
@@ -45,7 +45,7 @@ $$
 where $p_r$ denotes the $r$th prime?
 -/
 @[category research solved, AMS 11]
-theorem erdos_427 : erdos427 ↔ answer(True) := by
+theorem erdos_427 : answer(sorry) ↔ erdos427 := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/427.lean]:
```suggestion
theorem erdos_427 : answer(True) ↔ erdos427 := by
```

File: FormalConjectures/ErdosProblems/488.lean [hunk 13]
```diff
@@ -33,11 +33,11 @@ Is it true that, for every $m > n \ge \max(A)$,
 $$\frac{|B \cap [1, m]|}{m} < 2 \frac{|B \cap [1, n]|}{n}?$$
 -/
 @[category research solved, AMS 5 11]
-theorem erdos_488 : (∀ (A : Finset ℕ), A.Nonempty → 0 ∉ A → 1 ∉ A →
+theorem erdos_488 : answer(sorry) ↔ ∀ (A : Finset ℕ), A.Nonempty → 0 ∉ A → 1 ∉ A →
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/488.lean]:
```suggestion
theorem erdos_488 : answer(False) ↔ ∀ (A : Finset ℕ), A.Nonempty → 0 ∉ A → 1 ∉ A →
```

File: FormalConjectures/ErdosProblems/680.lean [hunk 14]
```diff
@@ -36,17 +36,15 @@ where $p(m)$ denotes the least prime factor of $m$?
 -/
 @[category research open, AMS 11]
 theorem erdos_680 :
-  (∀ᶠ (n : ℕ) in Filter.atTop, ∃ k ≠ 0, Nat.minFac (n + k) > k^2 + 1)
-  ↔ answer(sorry) := sorry
+  answer(sorry) ↔ ∀ᶠ (n : ℕ) in Filter.atTop, ∃ k ≠ 0, Nat.minFac (n + k) > k^2 + 1 := sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/680.lean]:
```suggestion
    answer(sorry) ↔ ∀ᶠ (n : ℕ) in .atTop, ∃ k ≠ 0, (n + k).minFac > k^2 + 1 := sorry
```

File: FormalConjectures/ErdosProblems/681.lean [hunk 15]
```diff
@@ -34,9 +34,8 @@ such that $n + k$ is composite and $p(n+k) > k^2$,
 where $p(m)$ is the least prime factor of $m$ ?
 -/
 @[category research open, AMS 11]
-theorem erdos_681 :
-    (∃ N, ∀ n > N, ∃ k > 0, (n + k).Composite ∧ ∀ p, IsLPF p (n + k) → p > k ^ 2) ↔
-    answer(sorry) := by
+theorem erdos_681 : answer(sorry) ↔
+    ∃ N, ∀ n > N, ∃ k > 0, (n + k).Composite ∧ ∀ p, IsLPF p (n + k) → p > k ^ 2 := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/681.lean]:
```suggestion
    ∀ᶠ n in .atTop, ∃ k > 0, (n + k).Composite ∧ ∀ p, IsLPF p (n + k) → p > k ^ 2 := by
```

File: FormalConjectures/ErdosProblems/686.lean [hunk 16]
```diff
@@ -30,9 +30,8 @@ for some $k≥2$ and $m≥n+k$?
 -/
 @[category research open, AMS 11]
 theorem erdos_686 :
-    (∀ (N : ℕ), N ≥ 2 → ∃ᵉ (k ≥ 2) (n : ℕ) (m ≥ n + k),
-      (N : ℚ) = (∏ i ∈ Finset.Icc 1 k, (m + i)) / (∏ i ∈ Finset.Icc 1 k, (n + i)))
-    ↔ answer(sorry) := by
+    answer(sorry) ↔ ∀ (N : ℕ), N ≥ 2 → ∃ᵉ (k ≥ 2) (n : ℕ) (m ≥ n + k),
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/686.lean]:
```suggestion
    answer(sorry) ↔ ∀ N ≥ 2, ∃ᵉ (k ≥ 2) (n : ℕ) (m ≥ n + k),
```

File: FormalConjectures/ErdosProblems/689.lean [hunk 17]
```diff
@@ -30,9 +30,8 @@ Let `n` be sufficiently large. Is there some choice of congruence class `a_p` fo
 -/
 @[category research open, AMS 11]
 theorem erdos_689 :
-    (∀ᶠ n in Filter.atTop, ∃ a : ℕ → ℕ, ∀ m ∈ Finset.Icc 1 n,
-      2 ≤ (Finset.Icc 1 n |>.filter fun p => p.Prime ∧ a p ≡ m [MOD p]).card)
-    ↔ answer(sorry) := by
+    answer(sorry) ↔ ∀ᶠ n in Filter.atTop, ∃ a : ℕ → ℕ, ∀ m ∈ Finset.Icc 1 n,
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/689.lean]:
```suggestion
    answer(sorry) ↔ ∀ᶠ n in .atTop, ∃ a : ℕ → ℕ, ∀ m ∈ Finset.Icc 1 n,
```

File: FormalConjectures/ErdosProblems/695.lean [hunk 18]
```diff
@@ -48,16 +48,15 @@ q(k) \leq \exp(k (\log k)^{1 + o(1)})?
...
+    ∃ q : ℕ → ℕ,
       StrictMono q ∧
       (∀ i, (q i).Prime) ∧
       (∀ i, q (i + 1) % q i = 1) ∧
       ∃ o : ℕ → ℝ,
         (o =o[atTop] (1 : ℕ → ℝ)) ∧
         -- We use `(k + 1)` here as the informal statement is 1-indexed.
-        ∀ k, q k ≤ exp ((k + 1) * (log (k + 1)) ^ (1 + o k))) ↔
-    answer(sorry) := by
+        ∀ k, q k ≤ exp ((k + 1) * (log (k + 1)) ^ (1 + o k)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/695.lean]:
```suggestion
        ∀ k, q k ≤ exp ((k + 1) * log (k + 1) ^ (1 + o k)) := by
```

File: FormalConjectures/ErdosProblems/749.lean [hunk 19]
```diff
@@ -31,9 +31,9 @@ such that the lower density of $A+A$ is at least $1-\epsilon$
 and yet $1_A\ast 1_A(n) \ll_\epsilon 1$ for all $n$?
 -/
 @[category research open, AMS 11]
-theorem erdos_749 : (∀ᵉ (ε > (0 : ℝ)),
+theorem erdos_749 : answer(sorry) ↔ ∀ᵉ (ε > (0 : ℝ)),
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/749.lean]:
```suggestion
theorem erdos_749 : answer(sorry) ↔ ∀ ε > (0 : ℝ),
```

File: FormalConjectures/Mathoverflow/347178.lean [hunk 20]
```diff
@@ -46,9 +45,8 @@ $\sup_{x \in \mathbb R^n}f(x)$ and $\sup_{x\in \mathbb R^n} f(x+\nabla f(x))$ eq
 -/
 @[category research open, AMS 26]
 theorem mathoverflow_347178.variants.bounded_iff :
-    (∀ᵉ (n ≥ 2) (f : ℝ^n → ℝ) (hf : ContDiff ℝ 1 f),
-        (BddAbove (range f) ↔ BddAbove (range (fun x ↦ f (x + gradient f x)))))
-      ↔ answer(sorry) := by
+    answer(sorry) ↔ ∀ᵉ (n ≥ 2) (f : ℝ^n → ℝ) (hf : ContDiff ℝ 1 f),
+        (BddAbove (range f) ↔ BddAbove (range (fun x ↦ f (x + gradient f x)))) := by
```
Comment (YaelDillies) [inline FormalConjectures/Mathoverflow/347178.lean]:
```suggestion
        BddAbove (range f) ↔ BddAbove (range fun x ↦ f (x + gradient f x)) := by
```

File: FormalConjectures/Other/BeaverMathOlympiad.lean [hunk 21]
```diff
@@ -59,19 +59,19 @@ The first 10 values of $(a_n, b_n)$ are $(1, 2), (3, 1), (2, 6), (5, 4), (1, 18)
...
 @[category research open, AMS 5 11 68]
 theorem busy_beaver_math_olympiad_problem_1 :
-    (∀ᵉ (a : ℕ → ℕ) (b : ℕ → ℕ)
+    answer(sorry) ↔ ∀ᵉ (a : ℕ → ℕ) (b : ℕ → ℕ)
     (a_ini : a 0 = 1)
     (a_rec : ∀ n, a (n + 1) = if b n ≤ a n then a n - b n else 2 * a n + 1)
     (b_ini : b 0 = 2)
     (b_rec : ∀ n, b (n + 1) = if b n ≤ a n then 4 * b n + 2 else b n - a n),
-    (∃ i, a i = b i)) ↔ answer(sorry) := by
+    (∃ i, a i = b i) := by
```
Comment (YaelDillies) [inline FormalConjectures/Other/BeaverMathOlympiad.lean]:
```suggestion
    ∃ i, a i = b i := by
```

File: FormalConjectures/Other/BeaverMathOlympiad.lean [hunk 22]
```diff
@@ -199,12 +199,12 @@ The correspondence between the machine's halting problem and the below reformula
...
-theorem beaver_math_olympiad_problem_5
-    (a b f : ℕ → ℕ) (hf : f = fun x ↦ 10 * 2 ^ x - 1)
+theorem beaver_math_olympiad_problem_5 : answer(sorry) ↔
+    ∀ (a b f : ℕ → ℕ), ∀ᵉ (hf : f = fun x ↦ 10 * 2 ^ x - 1)
     (a_ini : a 0 = 0) (b_ini : b 0 = 5)
     (a_rec : ∀ n, a (n + 1) = if f (a n) ≤ b n then a n + 1 else a n)
-    (b_rec : ∀ n, b (n+1) = if f (a n) ≤ b n then b n - f (a n) else 3 * b n + a n + 5) :
-    (∃ i, b i = (f (a i)) - 1) ↔ answer(sorry) := by
+    (b_rec : ∀ n, b (n+1) = if f (a n) ≤ b n then b n - f (a n) else 3 * b n + a n + 5),
+    (∃ i, b i = (f (a i)) - 1) := by
```
Comment (YaelDillies) [inline FormalConjectures/Other/BeaverMathOlympiad.lean]:
```suggestion
    ∃ i, b i = f (a i) - 1 := by
```

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 23]
```diff
@@ -28,28 +28,28 @@ namespace Fermat
...
-theorem infinite_fermat_composite : Infinite {n : ℕ | ¬Prime n.fermatNumber} ↔ answer(sorry) := by
+theorem infinite_fermat_composite : answer(sorry) ↔ Infinite {n : ℕ | ¬Prime n.fermatNumber} := by
   sorry
 
 /--
 Are all Fermat numbers are square-free?
 -/
 @[category research open, AMS 11]
-theorem all_fermat_squarefree : (∀ (n : ℕ), Squarefree n.fermatNumber) ↔ answer(sorry) := by
+theorem all_fermat_squarefree : answer(sorry) ↔ (∀ (n : ℕ), Squarefree n.fermatNumber) := by
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/Fermat.lean]:
```suggestion
theorem all_fermat_squarefree : answer(sorry) ↔ ∀ n : ℕ, Squarefree n.fermatNumber := by
```

File: FormalConjectures/Wikipedia/NoetherProblem.lean [hunk 24]
```diff
@@ -63,9 +63,9 @@ indeterminates over `K`. Is it true that `L/K` has the Noether property?
 Solution: False.
 -/
 @[category research solved, AMS 12 14]
-theorem noether_problem : (∀ (K L ι G : Type)
+theorem noether_problem : answer(sorry) ↔ ∀ (K L ι G : Type)
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/NoetherProblem.lean]:
```suggestion
theorem noether_problem : answer(False) ↔ ∀ (K L ι G : Type)
```

**Review by YaelDillies — APPROVED** [review]
Thanks!
